US06355813B1
A 100 mL three-necked flask under nitrogen was charged with 60% NaH suspension (116 mg, 2.9 mmol), CH2Cl2 (10 mL) and cooled to 0° C. The mixture was stirred for 0.5 h and warmed to room temperature. A solution of (1S-trans)-methyl 1-(1,3-benzodioxol-5-yl)-2,3 dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate (710 mg, 1.93 mmol) in CH2Cl2 (25 mL) was then added dropwise over 15 minutes. After 1 h, the mixture was cooled to 0° C. and fluorosulfonic anhydride (0.3 mL, 2.9 mmol) added in one portion. After 1.5 h the reaction was quenched with 3 M AcOH (1 mL), diluted with EtOH (150 mL) and cooled to 0° C. Filtration of the precipitate afforded (S)-methyl 1-(1,3-benzodioxol-5-yl)-3-[(fluorosulfonyl)oxy]-5-propoxy -1H-indene-2-carboxylate as a pale white solid (494 mg, 55%, 99% e.e.); mp 160.0-161.0° C.; Chiralpak AD column (93:7 IPA/hexane, 1 mL/min, 254 nm, 13.13 min).

reactant | NaH | 2.9 mmol, 116 mg | [H-].[Na+]
reactant | (1S-trans)-methyl 1-(1,3-benzodioxol-5-yl)-2,3 dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate | 1.93 mmol, 710 mg | O1COC2=C1C=CC(=C2)[C@@H]2[C@H](C(C1=CC(=CC=C21)OCCC)=O)C(=O)OC | C21H20O6
reactant | fluorosulfonic anhydride | 2.9 mmol, 0.3 mL | FS(=O)(=O)OS(=O)(=O)F | F2O5S2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 1-(1,3-benzodioxol-5-yl)-3-[(fluorosulfonyl)oxy]-5-propoxy -1H-indene-2-carboxylate | O1COC2=C1C=CC(=C2)[C@@H]2C(=C(C1=CC(=CC=C21)OCCC)OS(=O)(=O)F)C(=O)OC | C21H19FO8S
